data/rdb19/train.csv
rxn,smiles,ea
860,[C:19]([C:20]([C:21]([H:22])[O:23][C:24]([H:30])([H:31])[H:32])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])[H:11])([H:8])([H:9])[H:10].[H:12][C:21]([C:20]([C:19]([H:25])([H:26])[H:27])([H:28])[H:29])([H:22])[O:23][C:24]([H:30])([H:31])[H:32],23.849300988949835
4249,[C:1]([O:2][C:3]([O:4])([C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])[C:18]([C:17]([C:16]([H:23])([H:24])[H:25])([H:26])[H:27])([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31])([H:8])([H:9])[H:10]>>[C:16]([C:17]([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([O:2][C:3]1([C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])[O:4][C:18]1([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31])([H:8])([H:9])[H:10],52.64451871323399
5521,[C:13]([C:14]([C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2](=[O:3])[O:4][C:5]([C:6]([H:11])([H:12])[H:25])[H:10])([H:7])([H:8])[H:9],34.20904519694159
4695,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17](=[C:18][N:19]([C:20](=[O:21])[H:26])[H:25])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[O:7][H:16])[H:24])([H:11])[H:12])([H:8])([H:9])[H:10],34.32379341253545
2797,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21]([C:22]([C:23]([H:33])([H:34])[H:35])([N:24]([C:25](=[O:26])[H:37])[H:36])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])=[C:8]([C:9]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21]([H:30])[H:31])([H:27])([H:28])[H:29].[H:15][C:22]([C:23]([H:33])([H:34])[H:35])([N:24]([C:25](=[O:26])[H:37])[H:36])[H:32],74.4607722244109
1340,[C:10]([C:11]([C:12]([H:13])[H:14])([C:15](=[O:16])[N:17]([H:22])[H:23])[H:21])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([H:13])[H:14])[C:15](=[O:16])[N:17]([H:22])[H:23])([H:18])([H:19])[H:20].[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[H:21])[H:6],45.152485459228046
3719,[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:19]1([C:18](=[C:17]([H:25])[H:26])[H:27])[C:20]([H:28])[C:21]([H:29])=[C:22]([H:30])[C:23]([H:31])=[C:24]1[H:32])([H:10])[H:11])([H:7])([H:8])[H:9],25.67544690554496
3272,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[N:25]([C:26](=[O:27])[H:34])[H:33])([H:31])[H:32])([H:28])([H:29])[H:30]>>[C:1]([H:7])([H:8])([H:9])[H:31].[C:21]([C:22](=[C:23]([H:24])[N:25]([C:26](=[O:27])[H:34])[H:33])[H:32])([H:28])([H:29])[H:30].[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11],83.50593272567494
2425,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:22])([H:23])[H:24])([O:12][C:13](=[O:14])[C:15]([H:25])([H:26])[H:27])[H:21])([H:19])[H:20])([H:16])([H:17])[H:18]>>[C:1]([C:2]([H:3])([H:4])[H:25])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:22])([H:23])[H:24])([O:12][C:13](=[O:14])[C:15]([H:26])[H:27])[H:21])([H:19])[H:20])([H:16])([H:17])[H:18],21.235451586195268
2590,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([H:9])[H:10])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32].[H:16][C:23]([H:36])([H:37])[H:38],71.00602537591476
